US04221798
3-(2-imidazolin-2-ylamino)-2,3,4,5-tetrahydro-1H-3-benzazepin
5 g of (0.03 M) 3-amino-2,3,4,5-tetrahydro-1H-3-benzazepin and 4.3 g of (0.034 M) 1-acetyl-imidazolidin-2-one are stirred in 50 ml POCL3 for 1 hour at 100° C. The remaining process steps are analogous to those set forth in Example 5.

reactant | 3-amino-2,3,4,5-tetrahydro-1H-3-benzazepin | 0.03 M, 5 g | NN1CCC2=C(CC1)C=CC=C2 | C10H14N2
reactant | 1-acetyl-imidazolidin-2-one | 0.034 M, 4.3 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
product | 3-(2-imidazolin-2-ylamino)-2,3,4,5-tetrahydro-1H-3-benzazepin | N1C(=NCC1)NN1CCC2=C(CC1)C=CC=C2 | C13H18N4
